US06900227B2
Preparation of Bis-(2-fluoro-phenyl)-methanone
To a stirred suspension of 2-fluorobenzeneboronic acid (280 mg, 2 mmol), Cs2CO3 (1.63 g, 5 mmol) and tetrakis(triphenylphosphine)palladium(0) (40 mg, 0.02 mmol) in toluene (35 ml) under nitrogen was added dropwise 2-fluorobenzoyl chloride (634 mg, 4 mmol). The suspension was heated at 100° C. for 16 h, cooled to RT and partitioned between ethyl acetate and water. The organic layer was washed with aqueous potassium hydrogencarbonate solution, brine, dried over sodium sulfate, filtered and evaporated. Purification by flash chromatography afforded the title compound (210 mg, 46%). Colorless liquid.

reactant | 2-fluorobenzeneboronic acid | 2 mmol, 280 mg | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
reactant | Cs2CO3 | 5 mmol, 1.63 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-fluorobenzoyl chloride | 4 mmol, 634 mg | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Bis-(2-fluoro-phenyl)-methanone | 210 mg, 46% | FC1=C(C=CC=C1)C(=O)C1=C(C=CC=C1)F | C13H8F2O
